US06294558B1
1-[4-(2-Furyl)-3-methylphenyl]ethanone (step 2)
To a stirred solution of trifluoromethanesulfonic acid 4-acetyl-2methylphenyl ester (1.19 g, 4.2 mmol) in 1,4-dioxane (40 mL) was added 2-(tributylstannyl)furan (1.81 g, 5.05 mmol), lithium chloride (0.45 g, 10.5 mmol) and tetrakis(triphenylphosphine)palladium (0.49 g, 0.42 mmol) under nitrogen. The mixture was heated at reflux temperature for 2 hours, and cooled down to room temperature. The reaction mixture was diluted with water and the whole was extracted with diethylether. The organic layer was washed with saturated NaHCO3 aqueous solution, brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate/hexane (1/10) to give title compound (0.845 g, quant).

reactant | trifluoromethanesulfonic acid 4-acetyl-2methylphenyl ester | 4.2 mmol, 1.19 g | C(C)(=O)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C10H9F3O4S
reactant | 2-(tributylstannyl)furan | 5.05 mmol, 1.81 g | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | lithium chloride | 10.5 mmol, 0.45 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.42 mmol, 0.49 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(2-Furyl)-3-methylphenyl]ethanone | 0.845 g | O1C(=CC=C1)C1=C(C=C(C=C1)C(C)=O)C | C13H12O2
